US06423869B1
(2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoic acid
Diphenylmethyl (2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoate (270 mg) was dissolved in trifluoroacetic acid (5 ml) and the solution was stirred at room temperature for 1 hour. After concentration under reduced pressure, the residue was passed through silica gel column chromatography, followed by elution with ethyl acetate-methanol (10:1). The effective fractions were combined and concent rated under reduced pressure to afford the title compound (214 mg).

reactant | Diphenylmethyl (2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoate | 270 mg | C(C)(=O)O[C@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](COC(C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)OC(C)=O)OC(C)=O | C41H48N2O13
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoic acid | 214 mg | C(C)(=O)O[C@H](C(=O)O)[C@@H]([C@@H]([C@H](COC(C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)OC(C)=O)OC(C)=O | C28H38N2O13
